US05747501
(R)-3-Hydroxy-1-(N-methylpyrrolidin-2-yl)propene
To a stirred solution of lithium aluminum hydride (0.73 g, 19.24 mmol, 2.2 equivalents) in anhydrous tetrahydrofuran (20 mL) at 0° C. was added dropwise a solution of (R)-1-(N-benzyloxycarbonylpyrrolidin-2-yl)-3-hydroxypropene (2.30 g, 8.80 mmol) in anhydrous tetrahydrofuran (20 mL). The resulting reaction mixture was heated at reflux under nitrogen for 3.5 hours. The resulting mixture was then cooled, and sodium sulfate decahydrate (10 g) was added slowly with caution. This mixture was stirred at room temperature under nitrogen for 1 hour, and then ethyl acetate (100 mL) and water (1 mL) was added. The resulting mixture was stirred at room temperature under nitrogen overnight. The mixture was then filtered through Celite®, and the filtrate was evaporated under reduced pressure. Column chromatography of the residual oil using silica gel (approximately 200 g) and elution with methylene chloride/methanol/ammonium hydroxide (9:1:0.1) afforded the title compound (1.13 g, 8.00 mmol, 91%) as a clear, colorless liquid: 13C NMR (CDCl3) δ 132.6, 132.5, 69.0, 62.7, 56.6, 40.2, 31.8, 22.1; Anal. calcd for C8H15NO·0.175 H5NO [ammonium hydroxide]: C, 65.21; H, 10.88; N, 11.34. Found: C, 65.01; H, 10.71; N, 10.81.

reactant | lithium aluminum hydride | 19.24 mmol, 0.73 g, 2.2 equivalents | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (R)-1-(N-benzyloxycarbonylpyrrolidin-2-yl)-3-hydroxypropene | 8.80 mmol, 2.30 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C=CCO | C15H19NO3
reactant | sodium sulfate decahydrate | 10 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | (R)-3-Hydroxy-1-(N-methylpyrrolidin-2-yl)propene | 8.00 mmol, 1.13 g, 91% | OCC=C[C@@H]1N(CCC1)C | C8H15NO
